US07259175B2
To a suspension of 5-chloromethyl-4-methyl-2-(4-trifluoromethyl-phenyl)-oxazole (0.30 g, 1.8 mmol) and Cs2CO3 in 8 mL acetonitrile is added (4-Mercapto-2-methyl-phenoxy)-acetic acid ethyl ester (0.25 g, 1.1 mmol). The solution is stirred for 6 hrs and poured into water (50 mL) and extracted with ethyl acetate (3×25 mL). The combined organics are washed with water (10 mL) and brine (30 mL), dried (Na2SO4), filtered and concentrated in vacuo. The crude product is purified using flash column chromatography (10%-20% ethyl acetate/hexanes) to afford 0.40 g (79%) of {2-Methyl-4-[4-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-ylmethylsulfanyl]-phenoxy}-acetic acid ethyl ester. To a stirred solution of this ester (0.21 g, 0.44 mmol) is added m-CPBA (50%) (0.31 g, 0.89 mmol) at 0° C. After 10 min. the solution is poured into water (50 mL) and extracted with methylene chloride (3×20 mL). The combine methylene chloride layers are washed with 1 N NaOH (25 mL), water (25 mL) and brine (25 mL), dried (Na2SO4), filtered and concentrated in Vacuo. The crude sulphone is purified using flash column chromatography (10%-25% ethyl acetate hexanes) to give 0.15 g (68%) of {2-Methyl-4-[4-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-ylmethanesulfonyl]-phenoxy}-acetic acid ethyl ester. Hydrolysis of this sulphone (0.15 g, 0.30 mmol) occurred under the usual conditions (3 eq. of a 1N solution of LiOH in 1 mL of a 3:2:1 solution of THF:MeOH:H2O) to provide the title compound 0.11 g (78%) after workup with aq. NH4Cl and ethyl acetate.

reactant | 5-chloromethyl-4-methyl-2-(4-trifluoromethyl-phenyl)-oxazole | 1.8 mmol, 0.30 g | ClCC1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)C | C12H9ClF3NO
reactant | Cs2CO3 | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | (4-Mercapto-2-methyl-phenoxy)-acetic acid ethyl ester | 1.1 mmol, 0.25 g | C(C)OC(COC1=C(C=C(C=C1)S)C)=O | C11H14O3S
reactant | water | 50 mL | O | H2O
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
product | {2-Methyl-4-[4-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-ylmethylsulfanyl]-phenoxy}-acetic acid ethyl ester | 0.40 g, 79% | C(C)OC(COC1=C(C=C(C=C1)SCC1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O | C23H22F3NO4S
